.title Sallen-Key Low-Pass Filter

VCC 10 0 DC 15
VEE 11 0 DC -15

R1 1 2 100k
R2 2 3 100k
C1 2 4 1n
C2 3 0 1n

* Op-amp: Out In+ In- VCC VEE
OP 4 3 4 10 11 TL072 Rout=75 Imax=0.020 Gain=10000 Sr=13

.input 1
.output 4
.probe lowpass-sallen-key.csv V(input) V(4)
